US07622583B2
To a suspension of (3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-methanol (1.49 g, 7.8 mmol) in dioxane (10 mL) was added Et3N (1 mL), and Boc2O (3.41 g, 15.6 mmol), the resulted mixture was stirred at r.t. for 2 h. Then, saturated aqueous NaHCO3 (30 mL) was added in, and the resulted mixture was extracted with EtOAc (150 mL×2). The combined organic layers were washed with brine (30 mL), dried (Na2SO4) and filtered before it was concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel to provide 8-hydroxymethyl-2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid tert-butyl ester (1.11 g) as a white solid. ESMS m/z: 288.1 (M+Na)+.

reactant | (3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-methanol | 7.8 mmol, 1.49 g | O1CCNC2=C1C(=CC=C2)CO | C9H11NO2
reactant | Et3N | 1 mL | CCN(CC)CC | C6H15N
reactant | Boc2O | 15.6 mmol, 3.41 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 8-hydroxymethyl-2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid tert-butyl ester | 1.11 g | C(C)(C)(C)OC(=O)N1CCOC2=C1C=CC=C2CO | C14H19NO4
